US04867915
To a solution of 10.8 g (0.1 mol) of p-cresol in 70 ml of absolute ethanol,there were added 4 g of sodium hydroxide. The reaction mixture was refluxeduntil complete dissolution and then treated with 16.36 g (0.1 mol) of propargyl bromide (80% in toluene). Reflux was resumed for 14 additional hours. The reaction mixture was then cooled, poured into water and extracted with hexane (3×100 ml). The combined organic extracts werewashed with 20% aqueous sodium hydroxide solution and water, dried over sodium sulfate and the solvent removed by evaporation. The residue was distilled at 102° C./15 mm to yield 3-(p-methylphenoxy)-1-propyne, identical to an authentic sample.

reactant | p-cresol | 0.1 mol, 10.8 g | C1=CC(=CC=C1O)C | C7H8O
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | propargyl bromide | 0.1 mol, 16.36 g | C(C#C)Br | C3H3Br
solvent | water | O | H2O
product | 3-(p-methylphenoxy)-1-propyne | CC1=CC=C(OCC#C)C=C1 | C10H10O
